### PR TITLE
My branch- solution to some exercise

### PR DESCRIPTION
**Pull request by Xialu3421**

### CODE REVIEW

**Comment by kbuzzard** [comment]
Can you add
```
/-
7. Disprove the following statements:
(a) If n and k are positive integers, then n^k − n is always divisible by k.
(b) Every positive integer is the sum of three squares (the squares be-
ing 0, 1, 4, 9, 16, etc.).
-/
```
to the top of the file?

File: src/chapter01/exercises/exercise07.lean [hunk 1]
```diff
@@ -2,11 +2,28 @@ import tactic
...
 lemma part_a : ¬ (∀ n k : ℕ, n > 0 → k > 0 → k ∣ n ^ k - n) :=
 begin
-  sorry
+  intro h,
+  specialize h 2 4,
+  norm_num at h,
 end
 
-lemma part_b : ¬ (∀ n : ℕ, n > 0 → ∃ a b c : ℕ, n = a^2 + b^2 + c^2) :=
+lemma part_b : ¬ (∀ n : ℕ, n > 0 → ∃ a b c : ℕ, a>0 ∧ b>0 ∧ c>0 ∧ n = a^2 + b^2 + c^2) :=
```
Comment (kbuzzard) [inline src/chapter01/exercises/exercise07.lean]:
```suggestion
lemma part_b : ¬ (∀ n : ℕ, n > 0 → ∃ a b c : ℕ, n = a^2 + b^2 + c^2) :=
```
Now I've read the question I realise that we can't assume a > 0 etc!

**Comment by kbuzzard** [comment]
Thanks!
